US05618798
II. Potassium sucrose octasulfate
One portion of sucrose octasulfate solution prepared as described in I above was adjusted with 10% w/w aqueous potassium hydroxide to pH=9 with stirring at room temperature. The solution was evaporated at 50° C. in vacuo to remove pyridine and water until 880 g were left. The warm solution was filtered, adjusted to pH=9.5, and the substance was precipitated with slow cooling to 5° C. The substance was filtered and washed with 300 ml of 1:1 ion-exchanged water/methanol and 300 ml of methanol. The wet filter cake was dried in vacuo at 50° C. The crude product was dissolved at 40° C. in 700 ml of ion-exchanged water. The liquid was filtered and adjusted to pH=9.5, and the substance was precipitated with slow cooling to 5° C. The precipitated substance was filtered and washed with 300 ml of 1:1 ion-exchanged water/methanol and 300 ml of methanol. The wet filter cake was dried in vacuo at 50° C. The substance was reprecipitated twice as mentioned above.

reactant | sucrose octasulfate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)COS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O)OS(=O)(=O)O | C12H22O35S8
reactant | potassium hydroxide | [OH-].[K+]
product | Potassium sucrose octasulfate | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)COS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])COS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-])OS(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+].[K+].[K+].[K+] | InChI=1S/C12H22O35S8.8K/c13-48(14,15)37-1-4-6(43-51(22,23)24)8(45-53(28,29)30)9(46-54(31,32)33)11(40-4)42-12(3-39-50(19,20)21)10(47-55(34,35)36)7(44-52(25,26)27)5(41-12)2-38-49(16,17)18;;;;;;;;/h4-11H,1-3H2,(H,13,14,15)(H,16,17,18)(H,19,20,21)(H,22,23,24)(H,25,26,27)(H,28,29,30)(H,31,32,33)(H,34,35,36);;;;;;;;/q;8*+1/p-8/t4-,5-,6-,7-,8+,9-,10+,11-,12+;;;;;;;;/m1......../s1
